US06150524
4,5α-Epoxy-17-methyl-6α-((2-pyridyl)-oxy)-morphinan-3-ol acetate
4,5α-Epoxy-methoxymethoxy-17-methyl-6α-((2-pyridyl)-oxy)-morphinane (0.940 g, 2.3 mmol) is mixed with H2O (35 ml) and glacial acetic acid (35 ml) and stirred for 6 hours at 100° C. The mixture is then evaporated down at 40° C. using the Rotavapor and the residue obtained is purified by flash chromatography (90 g silica gel; CH2Cl2 /MeOH=4/1). The product is dissolved in H2O (7 ml) and glacial acetic acid (0.7 ml) and lyophilised.

reactant | 4,5α-Epoxy-methoxymethoxy-17-methyl-6α-((2-pyridyl)-oxy)-morphinane | 2.3 mmol, 0.940 g | O1C2=CC=C(C=3C[C@@H]4[C@@H]5CC[C@@H]([C@H]1[C@@]5(C23)CCN4C)OC4=NC=CC=C4)OCOC | C24H28N2O4
reactant | H2O | 35 ml | O | H2O
reactant | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 4,5α-Epoxy-17-methyl-6α-((2-pyridyl)-oxy)-morphinan-3-ol acetate | C(C)(=O)OC=1C=CC=2C[C@@H]3[C@@H]4CC[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)OC3=NC=CC=C3 | C24H26N2O4
